US07994168B2
a) 2-Allyloxycarbonylamino-3-(4-chlorophenyl)propionic acid
The product is prepared by methods (ET3N, methanol) known from the literature starting from 10 g of 4-chlorophenylalanine and 8 ml of allyl chloroformate. MW=283.71 (calculated monoisotopic); measured value (M+H)+: 284.1.

reactant | 4-chlorophenylalanine | 10 g | ClC1=CC=C(C[C@H](N)C(=O)O)C=C1 | C9H10ClNO2
reactant | allyl chloroformate | 8 ml | ClC(=O)OCC=C | C4H5ClO2
solvent | methanol | CO | CH4O
product | 2-Allyloxycarbonylamino-3-(4-chlorophenyl)propionic acid | C(C=C)OC(=O)NC(C(=O)O)CC1=CC=C(C=C1)Cl | C13H14ClNO4
